US06884821B1
Using 4-methoxy-3-({[-4-(trifluoromethyl)benzyl]oxy}methyl)benzaldehyde and 2,4-thiazolidinedione, 5-[4-methoxy-3-([4-(trifluoromethyl)benzyl]oxymethyl)benzyl]-1,3-thiazolane-2,4-dione was obtained in the same method as in Production Example 27c) and then in Example 29).

reactant | 4-methoxy-3-({[-4-(trifluoromethyl)benzyl]oxy}methyl)benzaldehyde | COC1=C(C=C(C=O)C=C1)COCC1=CC=C(C=C1)C(F)(F)F | C17H15F3O3
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[4-methoxy-3-([4-(trifluoromethyl)benzyl]oxymethyl)benzyl]-1,3-thiazolane-2,4-dione | COC1=C(C=C(CC2C(NC(S2)=O)=O)C=C1)COCC1=CC=C(C=C1)C(F)(F)F | C20H18F3NO4S
